US08003649B2
n-Butyllithium (1.6M in hexanes, 6.65 mL, 10.64 mmol) was added dropwise to 5-bromo-2-methoxypyridine (2.0 g, 10.64 mmol) in ether (30 mL) cooled to −78° C. over a period of 15 minutes. The resulting solution was stirred at −78° C. for 40 minutes then a solution of benzyl 4-oxo-1-piperidinecarboxylate (2.48 g, 10.64 mmol) in ether (10 mL) was added dropwise. The reaction was allowed to warm slowly to room temperature then quenched with ammonium chloride solution (50 mL) and extracted with EtOAc. The extract was washed sequentially with water and saturated brine, dried over MgSO4 and concentrated by evaporation then purified by flash silica chromatography, elution gradient 50 to 80% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford benzyl 4-hydroxy-4-(6-methoxypyridin-3-yl)piperidine-1-carboxylate (1.90 g, 52%) as a pale orange oil.

reactant | n-Butyllithium | 10.64 mmol, 1.6M, 6.65 mL | C(CCC)[Li]
reactant | 5-bromo-2-methoxypyridine | 10.64 mmol, 2.0 g | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | benzyl 4-oxo-1-piperidinecarboxylate | 10.64 mmol, 2.48 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | benzyl 4-hydroxy-4-(6-methoxypyridin-3-yl)piperidine-1-carboxylate | 1.90 g, 52% | OC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C=1C=NC(=CC1)OC | C19H22N2O4
